US06441052B1
5-Oxohexanenitrile (11.1 g; 0.10 mmol) was added at 20° C. to a suspension of anhydrous cerium(III) chloride (30 g; 0.12 mol) in THF (250 ml). After 1 hour stirring at room temperature, cyclopentylmagnesium chloride (60 ml of 2.0 M solution in diethyl ether; 0.12 mol) was added dropwise at 5° C. and stirring continued for more 0.5 hour at the same temperature. 2 N HCl (60 ml) was added, and the reaction mixture was extracted with MTBE (2×200 ml). The combined organic phases were washed with 2 N HCl (100 ml), and brine (2×100 ml), dried (MgSO4), and concentrated in vacuo, to give 13 g of crude (83% GC pure; 60% yield) 5-cyclopentyl-5-hydroxyhexanenitrile. The 5-cyclopentyl-5-hydroxyhexanenitrile was used without further purification in the next step.

reactant | 5-Oxohexanenitrile | 0.10 mmol, 11.1 g | O=C(CCCC#N)C | C6H9NO
reactant | cerium(III) chloride | 0.12 mol, 30 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | cyclopentylmagnesium chloride | 0.12 mol, 2.0 M, 60 ml | C1(CCCC1)[Mg]Cl
reactant | HCl | 2 N, 60 ml | Cl | ClH
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 5-cyclopentyl-5-hydroxyhexanenitrile | 60% yield | C1(CCCC1)C(CCCC#N)(C)O | C11H19NO
